US07923450B2
a) 2-Methoxy-4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzoic acid hydrazide
To a suspension of 4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzoic acid methyl ester (200 mg, 0.50 mmol) in ethanol (4 mL) was added hydrazine hydrate (0.6 mL) and the mixture was stirred for 7 hours at 90° C. The formed white precipitate was filtered off, washed with ethanol and dried to yield the title compound (130 mg, 65%) as a white solid which was used without further purification in the next step. mp 297-299° C. MS ISP (m/e): 393.5 (100) (M−H)−.

reactant | 4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzoic acid methyl ester | 0.50 mmol, 200 mg | COC(C1=CC=C(C=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2)=O | C21H20N2O2S
reactant | hydrazine hydrate | 0.6 mL | O.NN
reactant | ethanol | 4 mL | C(C)O | C2H6O
product | 2-Methoxy-4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzoic acid hydrazide | 130 mg, 65% | COC1=C(C(=O)NN)C=CC(=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C21H22N4O2S
